US09421298B2
Synthesis of triethyl 4-oxo-3-oxa-7,11,16-triazaoctadecane-6,17,18-tricarboxylate (spermidine aspartate) (1)
11.9 g (69 mmol) of diethyl maleate were added to a solution of 5 g (34.5 mmol) of spermidine in 5 ml of THF. The reaction mixture was stirred for 3 days at 60° C. After removing the solvent in vacuo, the product was obtained quantitatively as a yellow liquid.

reactant | diethyl maleate | 69 mmol, 11.9 g | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
reactant | spermidine | 34.5 mmol, 5 g | NCCCCNCCCN | C7H19N3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | triethyl 4-oxo-3-oxa-7,11,16-triazaoctadecane-6,17,18-tricarboxylate | O=C(OCC)CC(NCCCNCCCCNC(CC(=O)OCC)C(=O)OCC)C(=O)OCC | C23H43N3O8
